US04680303
A solution of 6-methyl-2-pyridinecarboxaldehyde (100 g), 1,3-propanedithiol (285 g) and para-toluenesulphonic acid (11.8 g) in toluene (2.6 liters) is heated to boiling for 12 hours 40 minutes, the water formed being removed by azeotropic distillation. After being cooled to a temperature in the region of 20° C., the reaction mixture is poured into a mixture of distilled water (1 liter) and ice (500 g), and approximately 10N aqueous potassium hydroxide solution is then added dropwise. After decantation, the organic solution is washed with approximately 5N aqueous potassium hydroxide solution, and 3 times with distilled water (1700 cc in total), dried over anhydrous magnesium sulphate and concentrated to dryness under reduced pressure (25 mm Hg; 3.25 kPa) at 50° C. The product obtained (160.2 g) is chromatographed on neutral silica gel (980 g; 0.063-0.200 mm) contained in a column 8 cm in diameter. The product is eluted with a mixture of cyclohexane and ethyl acetate (70:30 by volume), collecting 300-cc fractions. Fractions 9 to 23 are combined and concentrated to dryness under reduced pressure (25 mm Hg; 3.25 kPa) at 50° C. 2-(6-Methyl-2-pyridyl)-1,3-dithiane (90.2 g), m.p. 74° C., is thereby obtained.

reactant | 6-methyl-2-pyridinecarboxaldehyde | 100 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | 1,3-propanedithiol | 285 g | C(CCS)S | C3H8S2
reactant | para-toluenesulphonic acid | 11.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 2.6 liters | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Methyl-2-pyridyl)-1,3-dithiane | 90.2 g | CC1=CC=CC(=N1)C1SCCCS1 | C10H13NS2
